Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][NH:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH2:8])[c:9]1[C:10]#[N:11].[O:12]=[C:13]=[N:14][C:15](=[O:16])[c:17]1[cH:22][cH:21][cH:20][cH:19][cH:18]1>>[CH3:1][NH:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH:8][C:13](=[O:12])[NH:14][C:15](=[O:16])[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:9]1[C:10]#[N:11],[CH3:1][NH:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH2:8])[c:9]1[C:10]#[N:11].[O:12]=[C:13]=[N:14][C:15](=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][NH:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH:8][C:13](=[O:12])[NH:14][C:15](=[O:16])[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:9]1[C:10]#[N:11],nucleophilic_attack_to_iso(thio)cyanate,"[(8, 13), ([13, 12], 12), (12, 8.1), ([8.1, 8], 8), (12, [12, 13]), ([13, 14], 14), (14, 12.1), ([12.1, 12], 12)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)O[C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[O:8]=[S:9](=[O:10])([c:11]1[cH:12][cH:13][cH:14][c:15]2[cH:16][cH:17][cH:18][cH:19][c:20]12)[c:21]1[n:22][nH:23][c:24]2[cH:25][cH:26][c:27]([N:28]3[CH2:33][CH2:32][NH:31][CH2:30][CH2:29]3)[cH:34][c:35]12>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:31]1[CH2:30][CH2:29][N:28]([c:27]2[cH:26][cH:25][c:24]3[nH:23][n:22][c:21]([S:9](=[O:8])(=[O:10])[c:11]4[cH:12][cH:13][cH:14][c:15]5[cH:16][cH:17][cH:18][cH:19][c:20]45)[c:35]3[cH:34]2)[CH2:33][CH2:32]1,[O:8]=[S:9](=[O:10])([c:11]1[cH:12][cH:13][cH:14][c:15]2[cH:16][cH:17][cH:18][cH:19][c:20]12)[c:21]1[n:22][nH:23][c:24]2[cH:25][cH:26][c:27]([N:28]3[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]3)[cH:34][c:35]12.CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:31]1[CH2:30][CH2:29][N:28]([c:27]2[cH:26][cH:25][c:24]3[nH:23][n:22][c:21]([S:9](=[O:8])(=[O:10])[c:11]4[cH:12][cH:13][cH:14][c:15]5[cH:16][cH:17][cH:18][cH:19][c:20]45)[c:35]3[cH:34]2)[CH2:33][CH2:32]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(31, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]1.[OH:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH2:1]([C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]1)[O:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,[Br:101][CH2:1][C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]1.[OH:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1.[H-:301].[Na+]>>[CH2:1]([C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]1)[O:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,SN2_alcohol(thiol),"[(301, 11.1), ([11.1, 11], 11), (11, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(C(F)(F)F)[NH:1][CH2:2][c:3]1[cH:4][c:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([c:11]3[cH:12][n:13]([CH2:14][CH2:15][O:16][CH3:17])[c:18]4[c:19]3[cH:20][c:21]([Cl:22])[cH:23][c:24]4[CH3:25])=[O:26])[CH2:27][CH2:28]2)[c:29]([F:30])[cH:31][cH:32]1>>[NH2:1][CH2:2][c:3]1[cH:4][c:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([c:11]3[cH:12][n:13]([CH2:14][CH2:15][O:16][CH3:17])[c:18]4[c:19]3[cH:20][c:21]([Cl:22])[cH:23][c:24]4[CH3:25])=[O:26])[CH2:27][CH2:28]2)[c:29]([F:30])[cH:31][cH:32]1,[O:201]=[C:101]([C:202](F)(F)F)[NH:1][CH2:2][c:3]1[cH:4][c:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([c:11]3[cH:12][n:13]([CH2:14][CH2:15][O:16][CH3:17])[c:18]4[c:19]3[cH:20][c:21]([Cl:22])[cH:23][c:24]4[CH3:25])=[O:26])[CH2:27][CH2:28]2)[c:29]([F:30])[cH:31][cH:32]1.[OH2:301].[H+:302]>>[NH2:1][CH2:2][c:3]1[cH:4][c:5]([CH:6]2[CH2:7][CH2:8][N:9]([C:10]([c:11]3[cH:12][n:13]([CH2:14][CH2:15][O:16][CH3:17])[c:18]4[c:19]3[cH:20][c:21]([Cl:22])[cH:23][c:24]4[CH3:25])=[O:26])[CH2:27][CH2:28]2)[c:29]([F:30])[cH:31][cH:32]1,carboxylic_acid_derivative_hydrolysis_or_formation,"[(201, 302), (301, 101), ([101, 201], 201), (1, 301.1), ([301.1, 301], 301), (201, [201, 101]), ([101, 1], 1), ([201.1, 201], 201)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH3:3])[CH3:2].[CH3:4][C:5]([CH3:6])([CH3:7])[O:8][C:9](=[O:10])[N:11]1[CH2:12][CH2:13][CH2:14][NH:15][CH2:16][CH2:17]1>>[CH:1]([CH3:2])([CH3:3])[N:15]1[CH2:14][CH2:13][CH2:12][N:11]([C:9]([O:8][C:5]([CH3:4])([CH3:6])[CH3:7])=[O:10])[CH2:17][CH2:16]1,[CH3:4][C:5]([CH3:6])([CH3:7])[O:8][C:9](=[O:10])[N:11]1[CH2:12][CH2:13][CH2:14][NH:15][CH2:16][CH2:17]1.[O:101]=[C:1]([CH3:2])[CH3:3].[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]([CH3:2])([CH3:3])[N:15]1[CH2:14][CH2:13][CH2:12][N:11]([C:9]([O:8][C:5]([CH3:4])([CH3:6])[CH3:7])=[O:10])[CH2:17][CH2:16]1,reductive_amination,"[(15, 1), ([1, 101], 301), (101, 15.1), ([15.1, 15], 15), (15, [15, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 15], 15)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
